US03960863
3-[2-(4-m-Tolyl-1-piperazinyl)ethyl]-2,6,8-trimethyl-4H-pyrido[1,2-a]pyrimidin-4-one . dihydrochloride
A mixture of 2.5 g of 3-(2-chloroethyl)-2,6,8-trimethyl-4H-pyrido[1,2-a]pyrimidin-4-one, 5.3 g of 1-(m-tolyl)piperazine and 20 ml of toluene was refluxed for 24 hours. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by means of column chromatography using alumina. The oil obtained from the eluate was converted into the hydrochloride, which was then recrystallized from ethanol to give 0.8 g of the desired compound as pale yellow powders, m.p. 274°C (decomp.).

reactant | 3-(2-chloroethyl)-2,6,8-trimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 2.5 g | ClCCC1=C(N=C2N(C1=O)C(=CC(=C2)C)C)C | C13H15ClN2O
reactant | 1-(m-tolyl)piperazine | 5.3 g | C1(=CC(=CC=C1)N1CCNCC1)C | C11H16N2
reactant | hydrochloride | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-m-Tolyl-1-piperazinyl)ethyl]-2,6,8-trimethyl-4H-pyrido[1,2-a]pyrimidin-4-one . dihydrochloride | 0.8 g | Cl.Cl.C1(=CC(=CC=C1)N1CCN(CC1)CCC1=C(N=C2N(C1=O)C(=CC(=C2)C)C)C)C | InChI=1S/C24H30N4O.2ClH/c1-17-6-5-7-21(15-17)27-12-10-26(11-13-27)9-8-22-20(4)25-23-16-18(2)14-19(3)28(23)24(22)29;;/h5-7,14-16H,8-13H2,1-4H3;2*1H
